US07737166B2
Methyl 4-cyano-2-cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-1,3-benzoxazole-6-carboxylate (#90)
Methyl 4-cyano-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-6-carboxylate (I-183) (100 mg, 0.37 mmol) was dissolved in dimethyl, then at room temperature, triethylamine (76 μl, 0.55 mmol) and (3S)-3-(dimethylamino)pyrrolidine (56 μl, 0.44 mmol) were added. The solution was stirred under nitrogen atmosphere at 90° C. for 10 hours, then cooled to room temperature. This was fractionated with ethyl acetate and an aqueous saturated sodium hydrogencarbonate solution. The aqueous layer was further extracted twice with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, then the solvent was evaporated away, and the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=92:8) to obtain the entitled compound (118 mg) as a roughly-purified product. This was washed with diisopropyl ether to obtain the entitled compound (109 mg, 81%) as a white solid.

reactant | Methyl 4-cyano-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-6-carboxylate | 0.37 mmol, 100 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)F)C(=O)OC)C | C14H11FN2O3
reactant | triethylamine | 0.55 mmol, 76 μl | C(C)N(CC)CC | C6H15N
reactant | (3S)-3-(dimethylamino)pyrrolidine | 0.44 mmol, 56 μl | CN([C@@H]1CNCC1)C | C6H14N2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Methyl 4-cyano-2-cyclopropyl-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-1,3-benzoxazole-6-carboxylate | 118 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C2CC2)N2C[C@H](CC2)N(C)C)C(=O)OC)C | C20H24N4O3
